datasets/10k__Tet_Int.csv
SMILES Labelled
"[O:10]([K])C([H])C([H])C(O)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(O)C([H])C([H])[O+:10]1([K]) 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC)CC>>[H]C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CC.[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])=C([H])C([H])C([H])[O:10]1>>[O-:10]C([H])C([H])/C([H])=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C([H])[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C([H])[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(CC)C(C)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CC.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)[H])CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)[H] 21=20;20,10=10"
"[H][S:10]C([H])C([H])C([H])[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C([H])[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[H][O:10]C([H])C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S][H])[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S][H])[O]CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.C[NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C([H])[NH]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)CC)[H])[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CC)[H])C 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC)C>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)C.[O-:21]CCCCCC 10=20;20,21=21"
"[NH:10]([H])C(C)C(O)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(O)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])=C([H])C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C([H])/C([H])=C([H])\[C:20]([H])=[O:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C1=CC=CC=C1)C>>CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[O-:21]CC 10=20;20,21=21"
"CN([C:20]1(OC(C([O:21]1)C)[H])[O-:10])C>>CN([C:20](=[O:10])OC(C([O-:21])C)[H])C 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)[H])C1=CC=CC=C1)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[OH:21][C:20]1(OCC)C([H])C([H])=C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)/C(C)=C([H])\C([H])[C:20](OCC)=[OH+:21] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)[H])CCCCCC.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)[H])CCCCCC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
